US08022223B2
Step G: Preparation of 1-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio) pyridin-2-yl)thiourea:
A 250 mL round-bottomed flask was charged with 1-benzoyl-3-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-yl)thiourea (10.3 g, 17.6 mmol) and EtOH (125 mL). 3M Sodium hydroxide (11.7 mL, 35.2 mmol) was added and heated to 50° C. overnight. The reaction was cooled to room temperature and poured into 750 mL water and stirred vigorously for 1 hour. The solids were filtered to afford the title compound (6.5 g, 76.8% yield).

reactant | 1-benzoyl-3-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-yl)thiourea | 17.6 mmol, 10.3 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C=C1OC1=C(C=C(C=C1)F)Br)SC1=CC(=CC=C1)OC | C26H19BrFN3O3S2
reactant | EtOH | 125 mL | CCO | C2H6O
reactant | Sodium hydroxide | 35.2 mmol, 3M, 11.7 mL | [OH-].[Na+]
solvent | water | 750 mL | O | H2O
product | 1-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio) pyridin-2-yl)thiourea | 6.5 g, 76.8% yield | BrC1=C(OC=2C(=NC=C(C2)SC2=CC(=CC=C2)OC)NC(=S)N)C=CC(=C1)F | C19H15BrFN3O2S2
